US07538121B2
N-(5-Chloroquinolin-7-yl)-6-(4-Fluorophenyl)-2-ethyl -nicotinamide
To a solution of 7-amino-5-chloroquinoline (D83) (50 mg, 0.28 mmol) in DCM (3 ml) was added 6-(4-fluorophenyl)-2-methyl-nicotinic acid (D24) (30 mg, 0.13 mmol), 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride (59 mg, 0.31 mmol) and 4-dimethylaminopyridine (17 mg, 0.14 mmol) and the reaction stirred at room temperature then at reflux until complete by tlc. The mixture was washed with sat. aq. sodium bicarbonate solution then dried over MgSO4 and concentrated to give the crude product. Purification by SPE column chromatography gave the title compound as an off white solid. 1H NMR (400 MHz, CDCl3) δ (ppm): 8.94 (dd, 1H), 8.54 (d, 1H), 8.29 (s, 1H), 8.05 (m, 3H), 7.92 (d, 1H), 7.78 (br.s, 1H), 7.62 (d, 1H), 7.47 (dd, 1H), 7.18 (t, 2H), 2.84 (s, 3H).

reactant | 7-amino-5-chloroquinoline | 0.28 mmol, 50 mg | NC1=CC(=C2C=CC=NC2=C1)Cl | C9H7ClN2
reactant | 6-(4-fluorophenyl)-2-methyl-nicotinic acid | 0.13 mmol, 30 mg | FC1=CC=C(C=C1)C1=NC(=C(C(=O)O)C=C1)C | C13H10FNO2
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride | 0.31 mmol, 59 mg | Cl.CN(CCCN=C=NCC)C
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.14 mmol, 17 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(5-Chloroquinolin-7-yl)-6-(4-Fluorophenyl)-2-ethyl -nicotinamide | ClC1=C2C=CC=NC2=CC(=C1)NC(C1=C(N=C(C=C1)C1=CC=C(C=C1)F)CC)=O | C23H17ClFN3O
